* C:\FOSSEE\eSim\library\SubcircuitLibrary\CD_4070\CD_4070.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/29/22 16:05:10

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M21  Net-_M13-Pad2_ Net-_M14-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M25  Net-_M13-Pad2_ Net-_M14-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M9  Net-_M10-Pad3_ Net-_M1-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M13  Net-_M10-Pad3_ Net-_M13-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M10  Net-_M10-Pad1_ Net-_M1-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M14  Net-_M10-Pad1_ Net-_M14-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M3  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M5  Net-_M10-Pad1_ Net-_M1-Pad2_ Net-_M5-Pad3_ Net-_M5-Pad3_ eSim_MOS_N		
M6  Net-_M5-Pad3_ Net-_M13-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M17  Net-_M10-Pad1_ Net-_M1-Pad1_ Net-_M17-Pad3_ Net-_M17-Pad3_ eSim_MOS_N		
M18  Net-_M17-Pad3_ Net-_M14-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M50  Net-_M34-Pad2_ Net-_M42-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M54  Net-_M34-Pad2_ Net-_M42-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M37  Net-_M37-Pad1_ Net-_M29-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M41  Net-_M37-Pad1_ Net-_M34-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M38  Net-_M33-Pad1_ Net-_M29-Pad1_ Net-_M37-Pad1_ Net-_M37-Pad1_ eSim_MOS_P		
M42  Net-_M33-Pad1_ Net-_M42-Pad2_ Net-_M37-Pad1_ Net-_M37-Pad1_ eSim_MOS_P		
M31  Net-_M29-Pad1_ Net-_M29-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M29  Net-_M29-Pad1_ Net-_M29-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M33  Net-_M33-Pad1_ Net-_M29-Pad2_ Net-_M33-Pad3_ Net-_M33-Pad3_ eSim_MOS_N		
M34  Net-_M33-Pad3_ Net-_M34-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M45  Net-_M33-Pad1_ Net-_M29-Pad1_ Net-_M45-Pad3_ Net-_M45-Pad3_ eSim_MOS_N		
M46  Net-_M45-Pad3_ Net-_M42-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M23  Net-_M15-Pad2_ Net-_M16-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M27  Net-_M15-Pad2_ Net-_M16-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M11  Net-_M11-Pad1_ Net-_M11-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M15  Net-_M11-Pad1_ Net-_M15-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M12  Net-_M12-Pad1_ Net-_M12-Pad2_ Net-_M11-Pad1_ Net-_M11-Pad1_ eSim_MOS_P		
M16  Net-_M12-Pad1_ Net-_M16-Pad2_ Net-_M11-Pad1_ Net-_M11-Pad1_ eSim_MOS_P		
M4  Net-_M12-Pad2_ Net-_M11-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M2  Net-_M12-Pad2_ Net-_M11-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M7  Net-_M12-Pad1_ Net-_M11-Pad2_ Net-_M7-Pad3_ Net-_M7-Pad3_ eSim_MOS_N		
M8  Net-_M7-Pad3_ Net-_M15-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M19  Net-_M12-Pad1_ Net-_M12-Pad2_ Net-_M19-Pad3_ Net-_M19-Pad3_ eSim_MOS_N		
M20  Net-_M19-Pad3_ Net-_M16-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M52  Net-_M36-Pad2_ Net-_M44-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M56  Net-_M36-Pad2_ Net-_M44-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M39  Net-_M39-Pad1_ Net-_M30-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M43  Net-_M39-Pad1_ Net-_M36-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M40  Net-_M35-Pad1_ Net-_M30-Pad1_ Net-_M39-Pad1_ Net-_M39-Pad1_ eSim_MOS_P		
M44  Net-_M35-Pad1_ Net-_M44-Pad2_ Net-_M39-Pad1_ Net-_M39-Pad1_ eSim_MOS_P		
M32  Net-_M30-Pad1_ Net-_M30-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M30  Net-_M30-Pad1_ Net-_M30-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M35  Net-_M35-Pad1_ Net-_M30-Pad2_ Net-_M35-Pad3_ Net-_M35-Pad3_ eSim_MOS_N		
M36  Net-_M35-Pad3_ Net-_M36-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M47  Net-_M35-Pad1_ Net-_M30-Pad1_ Net-_M47-Pad3_ Net-_M47-Pad3_ eSim_MOS_N		
M48  Net-_M47-Pad3_ Net-_M44-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M26  Net-_M22-Pad1_ Net-_M10-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M22  Net-_M22-Pad1_ Net-_M10-Pad1_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M28  Net-_M24-Pad1_ Net-_M12-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M24  Net-_M24-Pad1_ Net-_M12-Pad1_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M53  Net-_M49-Pad1_ Net-_M35-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M49  Net-_M49-Pad1_ Net-_M35-Pad1_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M55  Net-_M51-Pad1_ Net-_M33-Pad1_ Net-_M11-Pad3_ Net-_M11-Pad3_ eSim_MOS_P		
M51  Net-_M51-Pad1_ Net-_M33-Pad1_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
U1  Net-_M11-Pad2_ Net-_M16-Pad2_ Net-_M24-Pad1_ Net-_M49-Pad1_ Net-_M30-Pad2_ Net-_M44-Pad2_ Net-_M1-Pad3_ Net-_M29-Pad2_ Net-_M42-Pad2_ Net-_M51-Pad1_ Net-_M22-Pad1_ Net-_M1-Pad2_ Net-_M14-Pad2_ Net-_M11-Pad3_ PORT		

.end
