* c:\fossee\esim\library\subcircuitlibrary\74139\74139.cir

.include 3_and.sub
x5 net-_u3-pad2_ net-_u4-pad2_ net-_u2-pad2_ net-_u13-pad1_ 3_and
* u13  net-_u13-pad1_ net-_u1-pad7_ d_inverter
x6 net-_u2-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u14-pad1_ 3_and
* u14  net-_u14-pad1_ net-_u1-pad8_ d_inverter
x7 net-_u2-pad2_ net-_u3-pad2_ net-_u6-pad2_ net-_u18-pad1_ 3_and
* u18  net-_u18-pad1_ net-_u1-pad9_ d_inverter
x8 net-_u2-pad2_ net-_u5-pad2_ net-_u6-pad2_ net-_u15-pad1_ 3_and
* u15  net-_u15-pad1_ net-_u1-pad10_ d_inverter
x1 net-_u11-pad1_ net-_u10-pad1_ net-_u7-pad2_ net-_u19-pad1_ 3_and
* u19  net-_u19-pad1_ net-_u1-pad11_ d_inverter
x2 net-_u7-pad2_ net-_u10-pad1_ net-_u11-pad2_ net-_u16-pad1_ 3_and
* u16  net-_u16-pad1_ net-_u1-pad12_ d_inverter
x3 net-_u7-pad2_ net-_u11-pad1_ net-_u10-pad2_ net-_u17-pad1_ 3_and
* u17  net-_u17-pad1_ net-_u1-pad13_ d_inverter
x4 net-_u7-pad2_ net-_u11-pad2_ net-_u10-pad2_ net-_u12-pad1_ 3_and
* u12  net-_u12-pad1_ net-_u1-pad14_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ port
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u3  net-_u1-pad2_ net-_u3-pad2_ d_inverter
* u5  net-_u3-pad2_ net-_u5-pad2_ d_inverter
* u4  net-_u1-pad3_ net-_u4-pad2_ d_inverter
* u6  net-_u4-pad2_ net-_u6-pad2_ d_inverter
* u7  net-_u1-pad4_ net-_u7-pad2_ d_inverter
* u9  net-_u1-pad5_ net-_u11-pad1_ d_inverter
* u11  net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u8  net-_u1-pad6_ net-_u10-pad1_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ d_inverter
a1 net-_u13-pad1_ net-_u1-pad7_ u13
a2 net-_u14-pad1_ net-_u1-pad8_ u14
a3 net-_u18-pad1_ net-_u1-pad9_ u18
a4 net-_u15-pad1_ net-_u1-pad10_ u15
a5 net-_u19-pad1_ net-_u1-pad11_ u19
a6 net-_u16-pad1_ net-_u1-pad12_ u16
a7 net-_u17-pad1_ net-_u1-pad13_ u17
a8 net-_u12-pad1_ net-_u1-pad14_ u12
a9 net-_u1-pad1_ net-_u2-pad2_ u2
a10 net-_u1-pad2_ net-_u3-pad2_ u3
a11 net-_u3-pad2_ net-_u5-pad2_ u5
a12 net-_u1-pad3_ net-_u4-pad2_ u4
a13 net-_u4-pad2_ net-_u6-pad2_ u6
a14 net-_u1-pad4_ net-_u7-pad2_ u7
a15 net-_u1-pad5_ net-_u11-pad1_ u9
a16 net-_u11-pad1_ net-_u11-pad2_ u11
a17 net-_u1-pad6_ net-_u10-pad1_ u8
a18 net-_u10-pad1_ net-_u10-pad2_ u10
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
