.subckt vsdsram_sky130 Vdd wl bl blbar q qbar gnd
XM1 q qbar gnd gnd sky130_fd_pr__nfet_01v8 w=0.42 l=0.21
XM2 q qbar vdd vdd sky130_fd_pr__pfet_01v8 w=0.84 l=0.21

*** Inverter 2 
XM3 qbar q gnd gnd sky130_fd_pr__nfet_01v8 w=0.42 l=0.21
XM4 qbar q vdd vdd sky130_fd_pr__pfet_01v8 w=0.84 l=0.21

*** Access Transistors
XM5 bl wl q gnd sky130_fd_pr__nfet_01v8 w=0.42 l=0.21
XM6 blbar wl qbar gnd sky130_fd_pr__nfet_01v8 w=0.42 l=0.21

.ends
